US07598423B2
Synthesis of 1-{2-hydroxy-4-[3-(3-iodo-benzyl)-[1,2,4]oxadiazol-5-ylmethoxy]-3-methyl-phenyl}-ethanone
Add lithium carbonate (49 mg, 0.66 mmol) and 5-chloromethyl-3-(3-iodo-benzyl)-[1,2,4]oxadiazole (200 mg, 0.60 mmol) to a solution of 1-(2,4-dihydroxy-3-methyl-phenyl)-ethanone (110 mg, 0.66 mmol) in anhydrous dimethylformamide (20 mL) 4]oxadiazole (200 mg, 0.60 mmol). Heat the reaction mixture at 60° C. overnight. Cool the reaction mixture to RT, pour into H2O, and extract with diethyl ether (3×). Combine the organic layers, wash with brine, dry over sodium sulfate, and concentrate to provide the title compound (150 mg). LC-MS (m/e): 463 (M−1).

reactant | lithium carbonate | 0.66 mmol, 49 mg | C([O-])([O-])=O.[Li+].[Li+]
reactant | 5-chloromethyl-3-(3-iodo-benzyl)-[1,2,4]oxadiazole | 0.60 mmol, 200 mg | ClCC1=NC(=NO1)CC1=CC(=CC=C1)I | C10H8ClIN2O
reactant | 1-(2,4-dihydroxy-3-methyl-phenyl)-ethanone | 0.66 mmol, 110 mg | OC1=C(C=CC(=C1C)O)C(C)=O | C9H10O3
reactant | oxadiazole | 0.60 mmol, 200 mg | C1CN2CC1C(C2)C3=NC(=NO3)N | C8H12N4O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
product | 1-{2-hydroxy-4-[3-(3-iodo-benzyl)-[1,2,4]oxadiazol-5-ylmethoxy]-3-methyl-phenyl}-ethanone | 150 mg | OC1=C(C=CC(=C1C)OCC1=NC(=NO1)CC1=CC(=CC=C1)I)C(C)=O | C19H17IN2O4
